US06271225B1
In the same manner as in Starting Material Synthesis Example 4 and using ethyl 2-amino-6-methoxybenzo[b]thiophene-3-carboxylate, 2-fluoronitrobenzene and dimethyl sulfoxide, ethyl 6-methoxy-2-(2-nitroanilino)benzo[b]thiophene-3-carboxylate is obtained.

reactant | ethyl 2-amino-6-methoxybenzo[b]thiophene-3-carboxylate | NC1=C(C2=C(S1)C=C(C=C2)OC)C(=O)OCC | C12H13NO3S
reactant | 2-fluoronitrobenzene | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | ethyl 6-methoxy-2-(2-nitroanilino)benzo[b]thiophene-3-carboxylate | COC=1C=CC2=C(SC(=C2C(=O)OCC)NC2=C(C=CC=C2)[N+](=O)[O-])C1 | C18H16N2O5S
